US09255110B2
A mixture of 4-chloro-pyrrolo[2,1-f][1,2,4]triazine-7-carboxylic acid ethyl ester (120 mg), palladium hydroxide on carbon (20%, 40 mg) and sodium acetate (600 mg) in a mixture of ethyl acetate and isopropanol (5/1, 12 mL) was stirred at room temperature under hydrogen atmosphere (balloon pressure) overnight. The resulting mixture was filtered and a CELITE™ pad, the filtrate was evaporated under reduced pressure. The crude residue was purified by flash chromatography to give 45 mg of pyrrolo[2,1-f][1,2,4]triazine-7-carboxylic acid ethyl ester.

reactant | 4-chloro-pyrrolo[2,1-f][1,2,4]triazine-7-carboxylic acid ethyl ester | 120 mg | C(C)OC(=O)C1=CC=C2C(=NC=NN21)Cl | C9H8ClN3O2
reactant | sodium acetate | 600 mg | C(C)(=O)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | isopropanol | 12 mL | C(C)(C)O | C3H8O
catalyst | palladium hydroxide on carbon | 40 mg | [OH-].[OH-].[Pd+2]
product | pyrrolo[2,1-f][1,2,4]triazine-7-carboxylic acid ethyl ester | 45 mg | C(C)OC(=O)C1=CC=C2C=NC=NN21 | C9H9N3O2
